US03940422
2 Grams of 3,4-dimethoxycinnamic acid were dissolved in a mixture of 20 ml of dry dimethylformamide and 1.5 g of triethylamine. To this solution was added under ice cooling and agitation 1.1 g of ethyl chlorocarbonate and the mixture was then reacted for one hour. To this mixture were added 10 ml of dimethylformamide containing 1.5 g of 3-aminobenzoic acid and the mixture was stirred for 2 hours. After completion of the reaction, the reaction liquid was concentrated approximately to 1/2 volume and poured into an aqueous solution of hydrochloric acid. The precipitated crystals were separated by filtration, washed with water and recrystallized from an equivolume mixture of ethanol and water to obtain a yield of 50% 3-(3',4'-dimethoxycinnamoylamino)-benzoic acid having a melting point of 225°-226°C.

reactant | 3,4-dimethoxycinnamic acid | COC=1C=C(C=CC(=O)O)C=CC1OC | C11H12O4
reactant | ethyl chlorocarbonate | 1.1 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | 3-aminobenzoic acid | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 10 ml, 1.5 g | CN(C=O)C | C3H7NO
product | 3-(3',4'-dimethoxycinnamoylamino)-benzoic acid | yield of 50% | COC=1C=C(C=CC(=O)NC=2C=C(C(=O)O)C=CC2)C=CC1OC | C18H17NO5
